US08710178B2
(S)-3-Allyloxy-2-tert-butoxycarbonylamino-propionic acid methyl ester (37)
Allyl alcohol (1.97 mL, 29.0 mmol) was dissolved in diethyl ether (20 mL). This was cooled in ice before ethyl chloroformate (0.304 mL, 31.9 mmol) and triethylamine (0.445 mL, 31.9 mmol) were added. After stirring in ice for 20 mins the resultant white precipitate was removed by suction filtration. The filtrate was concentrated in vacuo and the residue dissolved in THF (4 mL). To the resultant solution a solution of allyl palladium chloride dimer (0.0849 g, 0.232 mmol) and triphenylphosphine (0.266 g, 1.02 mmol) in THF (3 mL) was added. The mixture was stirred at rt for twenty min and to this was added a solution of N-Boc-serine methyl ester (obtained from GL Biochem (Shanghai) Ltd., Shanghai, China) (5.00 g, 2.32 mmol) in THF (20 mL). The reaction mixture was stirred at rt for a further 18 h before being concentrated in vacuo. The crude material was purified by flash chromatography on silica using a gradient of EtOAc and (50/70) petroleum ether to yield a yellow oil, 1.25 g, 21%. Rf=0.27 (1/6 EtOAc/(50/70) petroleum ether).

reactant | Allyl alcohol | 29.0 mmol, 1.97 mL | C(C=C)O | C3H6O
reactant | ethyl chloroformate | 31.9 mmol, 0.304 mL | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 31.9 mmol, 0.445 mL | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 1.02 mmol, 0.266 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-Boc-serine methyl ester | 2.32 mmol, 5.00 g | COC([C@@H](NC(=O)OC(C)(C)C)CO)=O | C9H17NO5
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | allyl palladium chloride dimer | 0.232 mmol, 0.0849 g | [CH2-]C=C.[CH2-]C=C.Cl[Pd+].Cl[Pd+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-3-Allyloxy-2-tert-butoxycarbonylamino-propionic acid methyl ester | COC([C@H](COCC=C)NC(=O)OC(C)(C)C)=O | C12H21NO5
